US08168658B2
Step B: Tert-butyl 4-[(2S)-2-(acetylamino)-3-(ethylamino)-3-oxopropyl]benzoate.
Tert-butyl 4-[(2S)-2-amino-3-(ethylamino)-3-oxopropyl]benzoate was dissolved in dichloromethane (3.5 mL). Pyridine (0.05 mL) and acetic anhydride (0.05 mL) were added. The reaction was allowed to stir overnight at room temperature under nitrogen. The reaction was transferred to a separatory funnel and washed with saturated sodium bicarbonate. The aqueous layer was extracted three additional times with dichloromethane. The combined organic layer was dried over sodium sulfate, filtered, and concentrated. The resulting material was purified by column chromatography. 1H NMR 600 MHz (CDCl3) δ 7.86 (d, 2H, J=8.4 Hz), 7.23 (d, 2H, J=8.4 Hz), 6.89 (s, 1H), 6.47 (s, 1H), 4.68 (m, 1H), 3.15 (m, 2H), 3.06 (m, 2H), 1.93 (s, 3H), 1.55 (s, 9H), 0.99 (m, 3H). MS: cal'd 335 (MH+), exp 335 (MH+).

reactant | Tert-butyl 4-[(2S)-2-amino-3-(ethylamino)-3-oxopropyl]benzoate | N[C@@H](CC1=CC=C(C(=O)OC(C)(C)C)C=C1)C(=O)NCC | C16H24N2O3
reactant | Pyridine | 0.05 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.05 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 3.5 mL | ClCCl | CH2Cl2
product | Tert-butyl 4-[(2S)-2-(acetylamino)-3-(ethylamino)-3-oxopropyl]benzoate | C(C)(=O)N[C@@H](CC1=CC=C(C(=O)OC(C)(C)C)C=C1)C(=O)NCC | C18H26N2O4
